US08383629B2
A solution of 1-methylspiro[indoline-3,4′-piperidin]-2-one (100 mg, 0.46 mmol) in CH2Cl2 (5 mL) was added 3-(2-trifluoromethyl-phenyl)-acrylic acid (120 mg, 0.56 mmol), HOBt (124 mg, 0.92 mmol), EDCI (181 mg, 0.92 mmol) and DIEA (297 mg, 2.30 mmol). The reaction mixture was stirred at rt overnight. The above mixture was concentrated and the residue was purified by preparative HPLC to give (E)-1-methyl-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidin]-2-one (50 mg, 26%). 1H NMR (CDCl3): 1.85-2.00 (m, 4H), 3.72 (s, 3H), 3.90-4.00 (m, 2H), 4.15-4.30 (m, 1H), 4.40-4.50 (m, 1H), 6.80-6.90 (m, 2H), 7.10-7.15 (m, 1H), 7.25-7.35 (m, 2H), 7.45-7.60 (m, 2H), 7.68-7.72 (m, 2H), 7.91-8.00 (m, 1H).

reactant | 1-methylspiro[indoline-3,4′-piperidin]-2-one | 0.46 mmol, 100 mg | CN1C(C2(CCNCC2)C2=CC=CC=C12)=O | C13H16N2O
reactant | 3-(2-trifluoromethyl-phenyl)-acrylic acid | 0.56 mmol, 120 mg | FC(C1=C(C=CC=C1)C=CC(=O)O)(F)F | C10H7F3O2
reactant | HOBt | 0.92 mmol, 124 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.92 mmol, 181 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 2.30 mmol, 297 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-1-methyl-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indoline-3,4′-piperidin]-2-one | 50 mg, 26% | CN1C(C2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C2=CC=CC=C12)=O | C23H21F3N2O2
